US07332622B2
Preparation of methyl(R)-2-methoxycarbonyl-4-nitro-3-phenylbutanoate
[(S,S)-N-(2,4,6-triisopropylbenzenesulfonyl)-1,2-diphenylethylenediamine](hexamethylbenzene)ruthenium (14.8 mg, 0.02 mmol, S/C=50), trans-β-nitrostyrene (149 mg, 1.0 mmol), dimethyl malonate (114 μl, 1.0 mmol) and toluene (1 ml) were added into Schlenk (20 ml) under an argon atmosphere, and stirred at 30° C. for 24 hours. 1HNMR determination of the solution showed that the yield of the product was 94%. The reaction solution was purified by flash column chromatography (hexane/acetone=80/20, SiO2), and the optical purity was measured by HPLC (CHIRALPACK AD manufactured by Daicel Co., Ltd., hexane:2-propanol=90:10, flow rate 0.5 ml/min, detection by 210 nm), resulting to 87% ee.

reactant | trans-β-nitrostyrene | 1.0 mmol, 149 mg | [N+](=O)([O-])\C=C\C1=CC=CC=C1 | C8H7NO2
reactant | dimethyl malonate | 1.0 mmol, 114 μl | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | methyl(R)-2-methoxycarbonyl-4-nitro-3-phenylbutanoate | COC(=O)C(C(=O)OC)[C@@H](C[N+](=O)[O-])C1=CC=CC=C1 | C13H15NO6
